US03969373
To a solution of 18.9 g of 4-carboxybenzalacetophenone in 7.5 ml of 1N sodium hydroxide solution and 225 ml of water was added 15 ml of 30% hydrogen peroxide. After cooling in an ice-water bath, 50 ml of 0.5N sodium hydroxide was added dropwise over 5 min. The reaction mixture was stirred at room temperature for 31/4 hrs. and acidified to pH of 6.5 with 1N hydrochloric acid. After stirring at room temperature for 1 hr., the solid was collected on a filter, washed with water and air-dried. Recrystallization from ethanol gave 11 g of 3-(4-carboxyphenyl)-1-phenyl-2,3-epoxy-1-propanone as colorless crystals, m.p. 170°-172°C after drying at 80°C under vacuum for 3 hrs.

reactant | 4-carboxybenzalacetophenone | 18.9 g | C(=O)(O)C1=CC=C(C=CC(=O)C2=CC=CC=C2)C=C1 | C16H12O3
reactant | hydrogen peroxide | 15 ml | OO | H2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 7.5 ml | [OH-].[Na+]
solvent | water | 225 ml | O | H2O
solvent | sodium hydroxide | 0.5N, 50 ml | [OH-].[Na+]
product | 3-(4-carboxyphenyl)-1-phenyl-2,3-epoxy-1-propanone | 11 g | C(=O)(O)C1=CC=C(C=C1)C1C(C(=O)C2=CC=CC=C2)O1 | C16H12O4
